US20010027196A1
4-Furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine
From 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine and N-iodosuccinimide in acetic acid. EI-MS m/e (%): 333 (M+, 66), 206 ([M—I]+, 100), 118 (44).

reactant | 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | O1C(=CC=C1)C1=NC(=NC(=C1)SC)N | C9H9N3OS
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
